US07790892B2
Synthesis of 9-(4-diphenylaminophenyl)-10-(3,5-diphenylphenyl)anthracene (Compound (A14))
Under an atmosphere of argon, 9-(4-chlorophenyl)-10-(3,5-diphenylphenyl)anthracene (2.3 g, 4.4 mmole), diphenylamine (0.9 g, 5.3 mmole, 1.2 eq), tris(dibenzylideneacetone)dipalladium(0) (0.1 g, 0.11 mmole, 5% Pd), a toluene solution of tri-t-butylphosphine (66% by weight, 0.05 ml, 0.16 mmole, 0.7 eq to Pd) and sodium t-butoxide (0.6 g, 6.3 mmole, 1.4 eq) were suspended in anhydrous toluene (20 ml). The resultant mixture was refluxed for 8 hours. The reaction mixture was filtered and washed with toluene, water and methanol, and a light yellow solid substance was obtained. The obtained solid substance was suspended in boiling toluene (40 ml). After the suspension was cooled while being left standing, the suspension was filtered, and a light yellow solid substance (2.5 g, the yield: 86%) was obtained. It was confirmed in accordance with 1H-NMR and FDMS that the obtained product was Compound (A14).

reactant | 9-(4-chlorophenyl)-10-(3,5-diphenylphenyl)anthracene | 4.4 mmole, 2.3 g | ClC1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C38H25Cl
reactant | diphenylamine | 5.3 mmole, 0.9 g, 1.2 eq | C1(=CC=CC=C1)NC1=CC=CC=C1 | C12H11N
reactant | tri-t-butylphosphine | 0.16 mmole, 0.05 ml, 0.7 eq | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
reactant | sodium t-butoxide | 6.3 mmole, 0.6 g, 1.4 eq | CC(C)([O-])C.[Na+]
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.11 mmole, 0.1 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
product | 9-(4-diphenylaminophenyl)-10-(3,5-diphenylphenyl)anthracene | yield: 86% | C1(=CC=CC=C1)N(C1=CC=C(C=C1)C=1C2=CC=CC=C2C(=C2C=CC=CC12)C1=CC(=CC(=C1)C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C50H35N
